US06177423B1
2-Allyloxy-4,7-dichloro-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione
A suspension of 2-allyloxy-4,6,7-trichlorobenzo[de]isoquinoline-1,3-dione (0.5 g, 1.5 mmol, from Example I4), pyrrolidine (0.14 g, 2.0 mmol), triethylamine (0.3 g, 3.0 mmol), and 25 mL of acetonitrile was stirred at room temperature for 4 hours. The reaction was diluted with 100 mL of water, and the precipitate was removed by filtration, washed with water, and dried in vacuo to give 0.53 g of the title compound.

reactant | 2-allyloxy-4,6,7-trichlorobenzo[de]isoquinoline-1,3-dione | 1.5 mmol, 0.5 g | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C(=CC3Cl)Cl)Cl)=O | C15H8Cl3NO3
reactant | pyrrolidine | 2.0 mmol, 0.14 g | N1CCCC1 | C4H9N
reactant | triethylamine | 3.0 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 2-Allyloxy-4,7-dichloro-6-(pyrrolidin-1-yl)benzo[de]isoquinoline-1,3-dione | 0.53 g | C(C=C)ON1C(C2=CC=C(C=3C2=C(C1=O)C(=CC3N3CCCC3)Cl)Cl)=O | C19H16Cl2N2O3
